US04731452
30.9 g (0.1 mol) of 1-chloro-5-(2,4-dichlorophenoxy)-3,3-dimethyl-2-pentanone, dissolved in 80 ml of acetone, are added dropwise, with stirring, to a mixture of 13.8 g (0.1 mol) of potassium carbonate and 13.8 g (0.2 mol) of 1,2,4-triazole in 200 ml of boiling acetone. The mixture is boiled for a further 3 hours, cooled down to 0° to 10° C., the salt is filtered off and the filtrate is evaporated in vacuo. After trituration of the oily residue with a little petroleum ether, 32.4 g (94.6% of theory) of 5-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-2-pentanone are obtained as colorless crystals of melting point 62° C.

reactant | 1-chloro-5-(2,4-dichlorophenoxy)-3,3-dimethyl-2-pentanone | 0.1 mol, 30.9 g | ClCC(C(CCOC1=C(C=C(C=C1)Cl)Cl)(C)C)=O | C13H15Cl3O2
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4-triazole | 0.2 mol, 13.8 g | N1N=CN=C1 | C2H3N3
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-(2,4-dichlorophenoxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-2-pentanone | 32.4 g, 94.6% | ClC1=C(OCCC(C(CN2N=CN=C2)=O)(C)C)C=CC(=C1)Cl | C15H17Cl2N3O2
